US08754114B2
N-(tetrahydrofuran-2-ylmethyl)-4-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)piperidine-1-carboxamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 30 (Step 6) starting from N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea and 2-(isocyanatomethyl)tetrahydrofuran (Matrix Scientific, Cat. No. 030196). LCMS (M+H)+: m/z=612.3.

reactant | N-{3-[7-(1-piperidin-4-yl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-3-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea | N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H23F3N8O
reactant | 2-(isocyanatomethyl)tetrahydrofuran | N(=C=O)CC1OCCC1 | C6H9NO2
product | N-(tetrahydrofuran-2-ylmethyl)-4-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}-1H-pyrazol-1-yl)piperidine-1-carboxamide | O1C(CCC1)CNC(=O)N1CCC(CC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F | C29H32F3N9O3
